US05411977
A mixture of 1.00 g (3.77 mmol)3 -(4-carboxyphenyl)-N-phenylpropiolamide, 1.00 g (excess) anhydrous sodium bicarbonate and 25 mL dry N,N-dimethylformamide was stirred at room temperature. Added was 1.95 g (excess) iodoethane and the mixture heated at 70°-80° C. for 3 hrs. The mixture was allowed to cool to room temperature and poured into 75 mL water. The resulting solid was filtered and recrystallized from ethanol/water to provide 0.99 g (3.37 mmol, 90%)3-(4-carbethoxyphenyl)-N-phenylpropiolamide as a pale, yellow powder, mp=114°-115° C. NMR (CDCl3 /TMS): 1.40 (t, 3H), 4.39 (q, 2H), 7.16 (t, 1H), 7.36 (t, 2H), 7.60 (d, 4H), 7.90 (s, 1H), 8.03 (d, 2H)). IR (KBr): 3292, 2210, 1692, 1660. High resolution mass spectrum: Calculated; 294.113019. Measured; 294.112376.

reactant | 3 -(4-carboxyphenyl)-N-phenylpropiolamide | 3.77 mmol, 1.00 g | C(=O)(O)C1=CC=C(C=C1)C#CC(=O)NC1=CC=CC=C1 | C16H11NO3
reactant | sodium bicarbonate | 1.00 g | C([O-])(O)=O.[Na+]
reactant | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
reactant | iodoethane | 1.95 g | ICC | C2H5I
solvent | water | 75 mL | O | H2O
product | 3-(4-carbethoxyphenyl)-N-phenylpropiolamide | 3.37 mmol, 0.99 g, 90% | C(=O)(OCC)C1=CC=C(C=C1)C#CC(=O)NC1=CC=CC=C1 | C18H15NO3
